US05939561
To a solution of 5.6 g of benzaldehyde in 25 cm3 of dichloromethane are added, with stirring and at a temperature in the region of 20° C., 8.5 g of (S)-1-(4-methoxyphenyl) ethylamine and 5 g of 4 Å molecular sieves. The reaction mixture is stirred for 16 hours at a temperature in the region of 20° C. and then filtered through a sinter funnel containing Celite. The sinter funnel is washed 3 times with 20 cm3 of dichloromethane and the filtrates are combined and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 13.4 g of (S)-N-benzylidene-[1-(4-methoxyphenyl)-ethylamine] are thus obtained, in the form of a light brown oil.

reactant | benzaldehyde | 5.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | (S)-1-(4-methoxyphenyl) ethylamine | 8.5 g | COC1=CC=C(C=C1)[C@H](C)N | C9H13NO
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
product | (S)-N-benzylidene-[1-(4-methoxyphenyl)-ethylamine] | 13.4 g | C(C1=CC=CC=C1)=N[C@@H](C)C1=CC=C(C=C1)OC | C16H17NO
